US03941853
3-(2,4,6-Trinitrobenzyl)-2,2',4,4',6,6'-hexanitrostilbene
The reaction of 4.5 g (0.02 mole) of TNT with 4.6 g (0.01 mole) of 3-chloro-2,2',4,4',6,6'-hexanitrostilbene was carried out as in the above reactions. The crude reaction product, after extraction with methanol was a brittle mass which was dissolved in 50 mol of acetonitrile, diluted with an equal volume of methanol and heated on a hot plate with magnetic stirring. Light yellow crystals separated and were filtered off, washed well with methanol and dried. This material weighed 4.8 g, 71% of the theoretical yield, melted at 168°-170° (dec), and elemental analysis showed that it contained a mole of acetonitrile. Calcd for C23H12N10O18 : N, 19.6. Found: N, 19.7, 19.4. Recrystallized from 50 ml of THF with 50 ml of methanol added to the hot THF solution after filtering, the product separated in very fine, almost colorless crystals, mp 210°-211°C. Anal. Calcd for C21H9N9O18 : C, 37.2; H, 1.3; N, 18.8. Found: C, 37.5, 37.7; H, 1.6, 1.5; N, 19.0, 18.4.

reactant | TNT | 0.02 mole, 4.5 g | CC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-] | C7H5N3O6
reactant | 3-chloro-2,2',4,4',6,6'-hexanitrostilbene | 0.01 mole, 4.6 g | ClC=1C(=C(C(=CC1[N+](=O)[O-])[N+](=O)[O-])C=CC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-] | C14H5ClN6O12
reactant | acetonitrile | 50 mol | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
product | 3-(2,4,6-Trinitrobenzyl)-2,2',4,4',6,6'-hexanitrostilbene | [N+](=O)([O-])C1=C(CC=2C(=C(C(=CC2[N+](=O)[O-])[N+](=O)[O-])C=CC2=C(C=C(C=C2[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-])C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-] | C21H9N9O18
